US07816371B2
d. (2S)-N-(2-(2-Amino-1-(4-chlorophenyl)-2-oxoethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chlorophenyl)propanamide
A round bottom flask was charged with 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-2-(4-chlorophenyl)acetamide (100 mg, 0.3 mmol), N,N-dimethylformamide (1 mL, 10 mmol), N,N-diisopropylethylamine (0.1 mL, 0.6 mmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (200 mg, 0.6 mmol) and (S)-2-(4-chlorophenyl)propanoic acid (68 mg, 0.37 mmol) and the reaction stirred at room temperature over night. The solvent was removed and the residue purified by flash chromatography (12 g silica gel, 0-10% MeOH/DCM) followed by preparative HPLC (reverse phase) to obtain the product as an off white solid. MS m/z=477.1 (M+H). 1H NMR (400 MHz; DMSO-d6) δ 9.97 (s, 1H), 8.12-8.10 (d, J=8.18 Hz, 1H), 8.03 (s, 1H), 7.75-7.70 (dd, J=8.18&5.63 Hz, 1H), 7.59 (s, 1H), 7.501-7.34 (m, 9H), 7.03-7.00 (d, J=8.01 Hz, 1H), 6.71 (s, 1H), 6.40-6.38 (d, J=8.27 Hz, 1H), 4.00-3.94 (q, J=6.97 Hz, 1H), 1.44-1.41 (d, J=7.11 Hz, 3H).

reactant | 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-2-(4-chlorophenyl)acetamide | 0.3 mmol, 100 mg | NC1=C2C=CN(C(C2=CC=C1)=O)C(C(=O)N)C1=CC=C(C=C1)Cl | C17H14ClN3O2
reactant | N,N-dimethylformamide | 10 mmol, 1 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.6 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.6 mmol, 200 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | (S)-2-(4-chlorophenyl)propanoic acid | 0.37 mmol, 68 mg | ClC1=CC=C(C=C1)[C@@H](C(=O)O)C | C9H9ClO2
product | (2S)-N-(2-(2-Amino-1-(4-chlorophenyl)-2-oxoethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chlorophenyl)propanamide | NC(C(C1=CC=C(C=C1)Cl)N1C(C2=CC=CC(=C2C=C1)NC([C@@H](C)C1=CC=C(C=C1)Cl)=O)=O)=O | C26H21Cl2N3O3
